US07855294B2
1) 7,8-Dihydro-6H-quinolin-5-one
In a nitrogen atmosphere, 24 mL of malonaldehyde tetraethyl acetal and 7.71 g of ammonium acetate were added in that order to xylene (80 mL) solution of 11.2 g of 1,3-cyclohexadione, and a reflux condenser tube fitted with a Dean-Stark water separator was attached to the reactor, and this was stirred at 160° C. for 18 hours. The reaction liquid was cooled to room temperature, the solvent was evaporated off under reduced pressure, the residue was extracted with chloroform, and the chloroform layer was washed with saturated saline water and dried with anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through silica gel column chromatography (chloroform/methanol=97/3) to obtain 2.21 g of the entitled compound.

reactant | malonaldehyde tetraethyl acetal | 24 mL | CCOC(CC(OCC)OCC)OCC | C11H24O4
reactant | ammonium acetate | 7.71 g | C(C)(=O)[O-].[NH4+]
reactant | xylene | 80 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 7,8-Dihydro-6H-quinolin-5-one | 2.21 g | N1=CC=CC=2C(CCCC12)=O | C9H9NO
